US08563735B2
4-(4-methylpiperazin-1-ylamino)-3-nitrobenzenesulfonamide
A mixture of 4-chloro-3-nitrobenzenesulfonamide (1 g), 4-methylpiperazin-1-amine dihydrochloride (1 g) and N1,N1,N2,N2-tetramethylethane-1,2-diamine (3 mL) in dioxane (10 mL) was refluxed for 12 hours, cooled to ambient temperature and filtered. The filtrate was added to a silica gel column (Analogix, SF65-200g) and purified by eluting with 1-5% methanol/dichloromethane).

reactant | 4-chloro-3-nitrobenzenesulfonamide | 1 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | 4-methylpiperazin-1-amine dihydrochloride | 1 g | Cl.Cl.CN1CCN(CC1)N
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | 3 mL | CN(CCN(C)C)C | C6H16N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(4-methylpiperazin-1-ylamino)-3-nitrobenzenesulfonamide | CN1CCN(CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C11H17N5O4S
